US07956216B2
73A: 4-Styryl-benzoic acid methyl ester
Methyl 4-(bromomethyl)benzoate (458 mg, 2 mmol) was added to dry toluene (8 mL) along with triphenylphosphine (609 mg, 2.2 mmol). Under nitrogen, reflux conditions were applied for three hours and the mixture was then permitted to cool to room temperature. The fine white solid was filtered off, washed thoroughly with EtOAc, and dried under vacuum (967 mg). This solid was stirred in dry THF (4 mL) under nitrogen, and potassium t-butoxide (246 mg, 2.18 mmol) was added. The bright orange mixture was heated under reflux for one hour. Upon cooling, benzaldehyde (202 μL, 212 mg, 1.2 mmol) in dry THF (2 mL) was added. Further heating under reflux was applied for thirty minutes. The reaction mixture was diluted with water and extracted with EtOAc. The organic layers were combined, washed with water and then brine, dried over MgSO4 and concentrated. The product was purified by flash chromatography on SiO2 using EtOAc/hexanes 10:90. A white solid was obtained (97 mg, 20%).

reactant | Methyl 4-(bromomethyl)benzoate | 2 mmol, 458 mg | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | triphenylphosphine | 2.2 mmol, 609 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium t-butoxide | 2.18 mmol, 246 mg | CC(C)([O-])C.[K+]
reactant | benzaldehyde | 1.2 mmol, 202 μL, 212 mg | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Styryl-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C=CC1=CC=CC=C1)=O | C16H14O2
